US06579886B2
Preparation of [3S,4aR,6S,8aR]-Ethyl-6-((4,5-bis-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate Dihydrochloride.
[3S,4aR,6S,8aR]-Ethyl-6-((4,5-bis-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate was dissolved in ethyl acetate (50 mL) and a solution of 1.86M hydrochloric acid in ethyl acetate (11.65 mL, 0.0217 mol) was added giving a sticky solid. The reaction mixture was concentrated to dryness. The residue was dissolved in dichloromethane (10 mL) and added dropwise to diethyl ether (150 mL) causing the precipitation of 5.09 g (47%) of [3S,4aR,6S,8aR]-Ethyl-6-((4,5-bis-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate dihydrochloride; mp 99-101° C.

reactant | [3S,4aR,6S,8aR]-Ethyl-6-((4,5-bis-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | C(C)OC(=O)[C@H]1NC[C@@H]2CC[C@@H](C[C@@H]2C1)CN1C=NC(=C1C(=O)OCC)C(=O)OCC | C22H33N3O6
reactant | hydrochloric acid | 1.86M | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.0217 mol, 11.65 mL | C(C)(=O)OCC | C4H8O2
product | [3S,4aR,6S,8aR]-Ethyl-6-((4,5-bis-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate Dihydrochloride | Cl.Cl.C(C)OC(=O)[C@H]1NC[C@@H]2CC[C@@H](C[C@@H]2C1)CN1C=NC(=C1C(=O)OCC)C(=O)OCC | InChI=1S/C22H33N3O6.2ClH/c1-4-29-20(26)17-10-16-9-14(7-8-15(16)11-23-17)12-25-13-24-18(21(27)30-5-2)19(25)22(28)31-6-3;;/h13-17,23H,4-12H2,1-3H3;2*1H/t14-,15-,16+,17-;;/m0../s1
